US08309580B2
(1) methyl 2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furoate
To a solution of 2-chloro-4′-(trifluoromethyl)acetophenone (50.9 g) and methyl 3-oxopentanoate (25 g) in toluene (500 mL) was added dropwise 1,8-azabicyclo[5.4.0]-7-undecene (28.7 mL) under ice-cooling over 30 min or longer. After the completion of the dropwise addition, and the mixture was stirred under ice-cooling for 30 min, and at room temperature for 2 hr. The resulting precipitate was filtered, and washed with toluene. The obtained toluene solution was passed through silica gel, and the silica gel was washed with ethyl acetate-hexane (1:1). The collected solution was concentrated under reduced pressure to remove ethyl acetate-hexane to give a toluene solution. To this toluene solution was added 4-toluenesulfonic acid monohydrate (7.2 g), and the mixture was stirred at 100° C. for 2 hr. The reaction mixture was washed with aqueous sodium hydrogen carbonate solution, and the aqueous layer was extracted with ethyl acetate. The organic layer was collected, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 10% ethyl acetate/hexane), and crystallized from ethyl acetate/hexane to give the title compound (16.3 g, 29%) as a white solid.

reactant | 2-chloro-4′-(trifluoromethyl)acetophenone | 50.9 g | ClCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H6ClF3O
reactant | methyl 3-oxopentanoate | 25 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | 4-toluenesulfonic acid monohydrate | 7.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furoate | 16.3 g, 29% | C(C)C=1OC(=CC1C(=O)OC)C1=CC=C(C=C1)C(F)(F)F | C15H13F3O3
